US08808703B2
Step 3: (R)-tert-butyl 2-(benzyloxycarbonylamino)-3-((S)-2,3-dihydroxypropylthio)propanoate
A solution of (2R)-(−)-glycidyl-4-nitrobenzoate (1.1 eq) and 1M NaOH (1.1 eq) in tBuOH (0.1 M) was stirred at room temperature until complete hydrolysis of nitrobenzoate (30 min) was achieved. To the resulting mixture, a solution of (R)-tert-butyl 2-(benzyloxycarbonylamino)-3-mercaptopropanoate (1 eq) in tBuOH (1 M) was introduced. The reaction was stirred at room temperature for 15 hours, and concentrated en vaccuo to remove tBuOH; then the resulting residue was dissolved in EtOAc. The EtOAc solution was washed three times with H2O then once with brine. The organic layer was dried over anhydrous Na2SO4 then concentrated en vaccuo. The resulting crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using a gradient of 0-90% EtOAc/Hex to give the title compound as a colorless viscous oil.

reactant | NaOH | 1M, 1.1 eq | [OH-].[Na+]
reactant | nitrobenzoate | [N+](=O)([O-])C1=C(C(=O)[O-])C=CC=C1
reactant | (R)-tert-butyl 2-(benzyloxycarbonylamino)-3-mercaptopropanoate | 1 eq | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CS | C15H21NO4S
solvent | tBuOH | 0.1 M | CC(C)(C)O | C4H10O
solvent | tBuOH | 1 M | CC(C)(C)O | C4H10O
product | (R)-tert-butyl 2-(benzyloxycarbonylamino)-3-((S)-2,3-dihydroxypropylthio)propanoate | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CSC[C@H](CO)O | C18H27NO6S
